US04073911
To the stirred solution of 5.6 g p-chloroaniline in 150 ml of methylene chloride is added dropwise 4.7 ml of t-butyl hypochlorite in 20 ml of methylene chloride at -65°. After ten minutes, the solution of 5.75 g of 2-ethylmercaptobutyrolactone in 20 ml of methylene chloride is added dropwise and the temperature held at -65° for 2 hours. Then the solution of 6.1 ml of triethylamine in 20 ml of methylene chloride is added dropwise and the mixture is allowed to warm up to room temperature. 50 ml of water are added with stirring and the precipitate filtered off, to yield the 5-chloro-3-(2-hydroxyethyl)-3-ethylmercapto-2-oxindole melting at 132°-135°.

reactant | p-chloroaniline | 5.6 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | t-butyl hypochlorite | 4.7 ml | ClOC(C)(C)C | C4H9ClO
reactant | 2-ethylmercaptobutyrolactone | 5.75 g | C(C)SC1C(=O)OCC1 | C6H10O2S
reactant | triethylamine | 6.1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 5-chloro-3-(2-hydroxyethyl)-3-ethylmercapto-2-oxindole | ClC=1C=C2C(C(NC2=CC1)=O)(SCC)CCO | C12H14ClNO2S
